US06232310B1
b) N-(2-Cyanomethylsulfanyl-4,6-difluoro-phenyl)acetamide
Acetyl chloride (575 μl, 8 mmol) in THF (2 ml) and subsequently pyridine (645 μl, 8 mmol) in THF (2 ml) were added to a stirred solution of (2-amino-3,5-difluorophenylsulfanyl)acetonitrile (1.53 g) in THF (20 ml) at 0° C. The mixture was stirred at 0° C. for 15 min, then at ambient temperature for 1 h. Additional amounts of acetyl chloride (57 μl) and pyridine (65 μl) were added, and stirring was continued for 1 h. Then the solvent was removed in vacuo and the residue was triturated with water (25 ml). The precipitate was filtered off and dried. Recrystallization from 96% ethanol gave the title compound. Yield 1.16 g (63%), mp 148.5-149° C. An additional crop of the title compound (0.25 g, 13%) was obtained from the mother liqueor; 1H-NMR (DMSO-d6), δ (ppm): 9.65 (s, 1H, NH), 7.40-7.20 (m, 2H, Ar—H), 4.34 (s, 2H, CH2), 2.09 (s, 3H, CH3).

reactant | Acetyl chloride | 8 mmol, 575 μl | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 8 mmol, 645 μl | N1=CC=CC=C1 | C5H5N
reactant | (2-amino-3,5-difluorophenylsulfanyl)acetonitrile | 1.53 g | NC1=C(C=C(C=C1F)F)SCC#N | C8H6F2N2S
reactant | acetyl chloride | 57 μl | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 65 μl | N1=CC=CC=C1 | C5H5N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(2-Cyanomethylsulfanyl-4,6-difluoro-phenyl)acetamide | C(#N)CSC1=C(C(=CC(=C1)F)F)NC(C)=O | C10H8F2N2OS
